US07393965B2
A 200 ml two-necked flask equipped with a dropping funnel, a magnetic stirrer and a three-way cock, was purged thoroughly with nitrogen. Into the flask, 4,4′-dimethylbenzophenone 6.72 g (31.9 mmol) was introduced, and dehydrated tetrahydrofuran 30 ml was further added. With cooling in an ice bath, 2 mol/L tetrahydrofuran solution of cyclopentadienyl sodium, 19.0 ml (38.0 mmol), was dropwise added to the flask. The contents were stirred at room temperature in a nitrogen atmosphere for 6 days to obtain a solution. With the flask cooled in an ice bath, 1 N hydrochloric acid aqueous solution 100 ml and diethyl ether 100 ml were gradually added in this order. The resulting two-phase solution was poured into a 300 ml separation funnel, and the funnel was shaken several times so that the water phase was removed. The obtained organic phase was washed twice with water 100 ml and once with a saturated salt solution 100 ml, and dried over anhydrous magnesium sulfate. The solution was filtered to remove solids, and the solvent of the filtrate was distilled away to obtain a red oily matter 9.40 g. The oily matter was subjected to silica gel chromatography to obtain 6.15 g of 6,6-di-p-tolyl fulvene as a red solid (23.8 mmol, 74.5% yield). Identification of the 6,6-di-p-tolyl fulvene was made by 1H NMR, the results being given below:

reactant | 4,4′-dimethylbenzophenone | 31.9 mmol, 6.72 g | CC1=CC=C(C(=O)C2=CC=C(C=C2)C)C=C1 | C15H14O
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 2 mol/L | O1CCCC1 | C4H8O
reactant | cyclopentadienyl sodium | C1(C=CC=C1)[Na]
reactant | hydrochloric acid | 1 N, 100 ml | Cl | ClH
solvent | water | O | H2O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 6,6-di-p-tolyl fulvene | 23.8 mmol, 6.15 g, 74.5% yield | C1(=CC=C(C=C1)C(=C1C=CC=C1)C1=CC=C(C=C1)C)C | C20H18
